data/specific_train_final.csv
"CC1(C2CCC(C1C2)(CO[O:20])O)C.[N+](=O)([O-])[O:10]>>CC1(C2CCC(C1C2)(CO[O:20][O:10][N+](=O)[O-])O)C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][CH:21]([O:22])OCC(C)O.OO[O:10]>>[H:20][O:10]OO.CC(CO[CH:21]=[O:22])O 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"C(C=O)O[O:20].[N:10]=O>>C(C=O)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC([CH2:10])O[N+](=O)[O-].[O:20][O]>>CCC([CH2:10][O:20][O])O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH2:2]/[C](C)=C/CO.[O][O:1]>>C/C([CH2:2][O:1][O])=C\CO 1-1,2;2-2,1",Room Temperature,Termination,recombine
"CC1=CC(=C(C([CH:10]1)O)C)O.[O:20][O]>>CC1=CC(=C(C([CH:10]1[O:20][O])O)C)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[O:11]([H:12])[CH:10](COO).[O][O:20]>>[O:11]=[CH:10](COO).[O][O:20][H:12] 20-20,12;12,11-12,20;12,11-11,10;10-10,11",Room Temperature,Termination,abstraction
"C(C(O[O:20])Cl)Cl.[N:10]=O>>C(C(O[O:20][N:10]=O)Cl)Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
[CH3:8][CH2:7][CH2:6][CH:5]([CH2:9][CH3:10])[O:4].[N:2](=[O:3])[O:1]>>[CH3:8][CH2:7][CH2:6][CH:5]([CH2:9][CH3:10])[O:4].[N+:2](=[O:3])[O-:1] 2-1,Room Temperature,Propagation,ha resonance
"CC(C)(C)CCOO[O:20][N+:21](=O)[O-]>>CC(C)(C)CCOO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
[CH3:7][CH:6]([CH3:8])[CH2:5][CH2:4][CH:2]([CH3:3])[O:1].[N:10](=[O:11])[O:9]>>[CH3:7][CH:6]([CH3:8])[CH2:5][CH2:4][CH:2]([CH3:3])[O:1].[N+:10](=[O:11])[O-:9] 10-9,Room Temperature,Propagation,ha resonance
"CC(C(C)O[O:20])O[N+](=O)[O-].[N+](=O)([O-])[O:10]>>CC(C(C)O[O:20][O:10][N+](=O)[O-])O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C([O:20][O:21][O])(Cl)Cl>>C([O:20])(Cl)Cl.[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC1(C2CC1C(C(C2)O[N+](=O)[O-])(C)[O:20][O:21][O])C.[N+](=O)[O-]>>CC1(C2CC1C(C(C2)O[N+](=O)[O-])(C)[O:20])C.[N+](=O)[O-].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(CO)C(C)[O:20][O:21][O]>>CC(CO)C(C)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC12C(C=CC(C1O)(OO2)C)[O:10][O:20]N=O>>CCC12C(C=CC(C1O)(OO2)C)[O:10].[O:20]N=O 10,20-10; 10,20-20",Room Temperature,Initiation,homolyze
[CH3:8][CH:2]([O:1])[O:3][C:4]([CH3:5])([CH3:6])[CH3:7].[N:10](=[O:9])[O:11]>>[CH3:8][CH:2]([O:1])[O:3][C:4]([CH3:5])([CH3:6])[CH3:7].[N+:10](=[O:9])[O-:11] 10-11,Room Temperature,Propagation,ha resonance
"[CH3:4][CH2:3][CH:2]([CH3:1])[CH2:5][CH2:6][O:7][O:8][N:9]=[O:10]>>[CH3:4][CH2:3][CH:2]([CH3:1])[CH2:5][CH2:6][O:7].[N:9](=[O:10])[O:8] 7,8-7; 7,8-8",Room Temperature,Initiation,homolyze
"[H:20][C:21]1(C=CC=C[C:22]1C(C)C)O.[O:10][O]>>[H:20][O:10][O].CC(C)[C:22]1=[C:21](C=CC=C1)O 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"CCC12C=C(C(C(C1O)(OO2)C)[O:20])C.[N+:10](=O)[O-]>>CCC12C=C(C(C(C1O)(OO2)C)[O:20][N+:10](=O)[O-])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C(C(OO[O:20][N+:21](=O)[O-])Br)Br>>C(C(OO[O:20])Br)Br.[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
[CH3:9][CH2:8][CH2:7][CH2:6][CH:5]([CH2:10][O:11][N+:12](=[O:14])[O-:13])[O:4].[N:2](=[O:3])[O:1]>>[CH3:9][CH2:8][CH2:7][CH2:6][CH:5]([CH2:10][O:11][N+:12](=[O:14])[O-:13])[O:4].[N+:2](=[O:3])[O-:1] 2-1,Room Temperature,Propagation,ha resonance
"CCC(=O)[CH:20]=[C:21](C)C1C(O1)(CC)C=O.[OH:10]>>CCC(=O)[CH:20]([C:21](C)C1C(O1)(CC)C=O)[OH:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[CH2:20]=[CH:21]Cl.[N+](=O)([O-])[O:10]>>[CH2:20]([CH:21]Cl)[O:10][N+](=O)[O-] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC(C)([CH2:10])O[N+](=O)[O-].[O:20][O]>>CC(C)([CH2:10][O:20][O])O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1=C(C=CC=C1)CO[O:20].[N+](=O)([O-])[O:10]>>CC1=C(C=CC=C1)CO[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:17][O:16][CH:13]([CH:8]([C:3]([CH3:4])([CH2:2][OH:1])[O:5][O:6][H:7])[O:9][N+:10](=[O:12])[O-:11])[O:14][O:15]>>[H:17][O:16][CH:13]([CH:8]([C:3]([CH3:4])([CH2:2][OH:1])[O:5][O:6][H:7])[O:9][N+:10](=[O:12])[O-:11]).[O:14][O:15] 13,14-13;13,14-14",Room Temperature,Initiation,homolyze
"[CH:5]1=[CH:4][CH:3]=[C:2]([CH:7]=[CH:6]1)[OH:1].[OH:8]>>[CH:4]1=[CH:5][CH:6]([CH:7][C:2](=[CH:3]1)[OH:1])[OH:8] 8-6,8; 6,7-6,8; 6,7-7",Room Temperature,Propagation,addition
"CCC(C(C)C)[O:20][O:21][O].[N+](=O)[O-]>>CCC(C(C)C)[O:20].[N+](=O)[O-].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC1(C=CC2C(C1(OO2)C)O)[O][O:10].[O:20][N+]([O-])=O>>CCC1(C=CC2C(C1(OO2)C)O)[O][O:10][O:20][N+]([O-])=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCO[O:20].[N+](=O)([O-])[O:10]>>CCCO[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
